US08383644B2
(3R,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester
(S)-2-Amino-3-{(R)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester hydrochloride (1.4 g) was dissolved in 100 mL dry dioxane and 160 mg paraformaldehyde was added while stirring. Then 25 mL trifluoroacetic acid was added and the mixture was stirred for 4 hours. The mixture was diluted with EtOAc and neutralized with 10% sodium carbonate. Saturated sodium bicarbonate was added to the organic layer and 1.2 g di-t-butyl dicarbonate was added and stirred 6 hours at room temperature. The layers were then separated and the organic layer was dried with Na2SO4, and evaporated. The residue was purified by silica gel flash chromatography (hexanes to 7:3 hexanes/EtOAc) to give 1.0 g after drying under vacuum. LCMS: m/z 601.

reactant | (S)-2-Amino-3-{(R)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester hydrochloride | 1.4 g | Cl.COC([C@H](CC1=CC2=C(O[C@@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)N)=O
reactant | paraformaldehyde | 160 mg | C=O | CH2O
reactant | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 1.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | (3R,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester | COC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)C(=O)OC(C)(C)C | C31H31Cl2NO7
